US09303012B2
a) (S)-5,5-Dimethylpyrrolidine-2-carboxamide hydrochloride
In analogy to the procedure described in Example 82 a), (S)-tert-butyl 5-carbamoyl-2,2-dimethylpyrrolidine-1-carboxylate (CAN 1292838-05-1) was treated with a 4 M solution of HCl in dioxane to give the title compound as colorless solid which was sufficiently pure to be used in the next step; MS (EI): m/e=143.2 [(M-Cl)H+].

reactant | (S)-tert-butyl 5-carbamoyl-2,2-dimethylpyrrolidine-1-carboxylate | C(N)(=O)[C@@H]1CCC(N1C(=O)OC(C)(C)C)(C)C | C12H22N2O3
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-5,5-Dimethylpyrrolidine-2-carboxamide hydrochloride | Cl.CC1(CC[C@H](N1)C(=O)N)C | InChI=1S/C7H14N2O.ClH/c1-7(2)4-3-5(9-7)6(8)10;/h5,9H,3-4H2,1-2H3,(H2,8,10);1H/t5-;/m0./s1
